US04766131
A solution of N-(4-nitrophenethyl)-1,2,3,4-tetrahydro-7,8-dimethoxy-1-methylisoquinoline hydrochloride (66.3 g, 0.17 m) in methanol (1 liter) and water (10 ml) was placed in an 1100 ml pressure bottle and 5% Pd/C catalyst (5.0 g) added under nitrogen. The mixture was hydrogenated at 40 psi in a Parr apparatus for 20 hr. The catalyst was removed by filtration and the solvent evaporated leaving an oily residue. The residue was dissolved in 95% ethanol (300 ml) and after 24 hr a solid had crystallized out which was collected by filtration and air dried giving 44.3 g (82%) of N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline monohydrochloride. The free base could be obtained by basifying a solution of this salt with NaOH and extracting with CHCl3. Evaporation of the solvent and crystallization of the resulting oil from cyclohexane gives the base in 80% efficiency as a white solid. Melting point after drying at 60° for 26 hr under high vacuum 102°-103°.

reactant | N-(4-nitrophenethyl)-1,2,3,4-tetrahydro-7,8-dimethoxy-1-methylisoquinoline hydrochloride | 66.3 g | Cl.[N+](=O)([O-])C1=CC=C(CCN2C(C3=C(C(=CC=C3CC2)OC)OC)C)C=C1
solvent | methanol | 1 liter | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | Pd/C | 5.0 g | [Pd] | Pd
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline monohydrochloride | 44.3 g, 82% | Cl.NC1=CC=C(CCN2C(C3=CC(=C(C=C3CC2)OC)OC)C)C=C1 | InChI=1S/C20H26N2O2.ClH/c1-14-18-13-20(24-3)19(23-2)12-16(18)9-11-22(14)10-8-15-4-6-17(21)7-5-15;/h4-7,12-14H,8-11,21H2,1-3H3;1H
